US07217737B2
M24: (E)-3-(3,5-diisopropyl-4-hydroxyphenyl)-2-[(3-phenyl-n-propyl)aminothiocarbonyl]acrylonitrile
0.6 g of 3,5-diisopropyl-4-hydroxybenzaldehyde, and 0.6 g of N-3-phenyl-n-propylcyanothioacetamide and 40 mg β-alanine in 40 ml ethanol were refluxed 4 hours. Evaporation and chromatography gave 0.6 g of M24 as an orange viscous oil that did not crystalyze. NMR CDCl3 δ 8.76(1H, S, vinyl), 7.78(2H, S, H2.6), 7.25(5H, m), 5.60(1H, S, OH), 3.90(2H, q, J=7.0 Hz), 3.17(2H, Septet, J=7.0 Hz), 2.76(2H, t, J=7.0 Hz), 2.11(2H, quintet, J=7.0 Hz), 1.29(12H, d, J=7.0 Hz). MS—407(M+1,55), 406(M+, 70), 373(M-CH3-H2O, 100), 363(M-isopropyl, 72), 272(M-NH(CH2)3 Ph. 20), 259 (58), 230 (28), 91 (28), m/e.

reactant | 3,5-diisopropyl-4-hydroxybenzaldehyde | 0.6 g | C(C)(C)C=1C=C(C=O)C=C(C1O)C(C)C | C13H18O2
reactant | N-3-phenyl-n-propylcyanothioacetamide | 0.6 g | C1(=CC=CC=C1)CCCNC(CC#N)=S | C12H14N2S
reactant | β-alanine | 40 mg | NCCC(=O)O | C3H7NO2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | (E)-3-(3,5-diisopropyl-4-hydroxyphenyl)-2-[(3-phenyl-n-propyl)aminothiocarbonyl]acrylonitrile | C(C)(C)C=1C=C(C=C(C1O)C(C)C)/C=C(\C#N)/C(=S)NCCCC1=CC=CC=C1 | C25H30N2OS
